US04230644
(A) From 4'Nitrobenzyl 7-phenoxyacetamido-3-methyl-3-cephem-4-carboxylate
A solution of the triphenyl phosphite-chlorine reagent was prepared by bubbling chlorine through a solution of 2.89 ml (11 mmol) of triphenyl phosphite in 50 ml of methylene chloride at -15° C. To this solution was added 5.02 gm (10 mmol) of 4'-nitrobenzyl 7-phenoxy-acetamido-3-methyl-3-cephem-4-carboxylate and 0.85 ml (11.5 mmol) of pyridine. The reaction mixture was stirred for 1 hour at -15° to -10° C. after which time was added 6.0 ml (64.8 mmole) of isobutanol. The cooling bath was removed, and the reaction mixture was allowed to warm to room temperature over a 2 hour period. The titled nucleus hydrochloride ester, which began to crystallize in about 15 minutes, was filtered, washed with methylene chloride, and dried. A total of 3.55 grams (92%) of the titled product was obtained as white crystals: m.p. 189° C. (decomp.).

reactant | chlorine | ClCl | Cl2
reactant | triphenyl phosphite | 11 mmol, 2.89 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | pyridine | 11.5 mmol, 0.85 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutanol | 64.8 mmole, 6.0 ml | C(C(C)C)O | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | triphenyl phosphite chlorine | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1.ClCl | InChI=1S/C18H15O3P.Cl2/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;1-2/h1-15H;
